### PR TITLE
Rezk completion of categories equipped with, or having, binary products

### PR DESCRIPTION
**Pull request by Kfwullaert**
This PR proves that the Rezk completion of categories commutes/is compatible with binary products.
That is, if a category is equipped with binary products, or has them, then so does its Rezk completion.
Furthermore, the universal property lifts from the bicategory of categories, functors, and transformations, to the bicategory of categories equipped with binary products, functors preserving them, and transformations.

### CODE REVIEW

File: UniMath/Bicategories/RezkCompletions/StructuredCats/BinProducts.v [hunk 1]
```diff
@@ -0,0 +1,379 @@
...
+      use z_iso_inv_on_left.
+      exact pf1.
+    + refine (_ @ ! z_iso_inv_on_left _ _ _ _ _ _ (pr22 t)).
+      rewrite assoc'.
+      apply maponpaths.
+      use z_iso_inv_on_left.
+      exact pf2.
+Defined.
+
+Lemma binproduct_of_isos {C : category} {x1 x2 y1 y2 : C}
```
Comment (rmatthes) [inline UniMath/Bicategories/RezkCompletions/StructuredCats/BinProducts.v:119]: This is an auxiliary result of general interest and should be placed further upstream.

File: UniMath/Bicategories/RezkCompletions/StructuredCats/BinProducts.v [hunk 2]
```diff
@@ -0,0 +1,319 @@
...
+  Context (LUR : left_universal_arrow R).
+  Let η := (pr12 LUR).
+  Context (η_weak_equiv : ∏ C : category, is_weak_equiv (η C)).
+
+  Let D := disp_bicat_chosen_binproducts.
+
+  Let RR := (disp_psfunctor_on_cat_to_univ_cat D
+               (disp_2cells_isaprop_from_disp_2cells_iscontr _ disp_2cells_is_contr_chosen_binproducts)).
+
+  Section A.
```
Comment (nmvdw) [inline UniMath/Bicategories/RezkCompletions/StructuredCats/BinProducts.v:213]: What is a better name for this section?

File: UniMath/Bicategories/RezkCompletions/StructuredCats/BinProducts.v [hunk 3]
```diff
@@ -0,0 +1,319 @@
...
+
+      refine (ψ₃ @ _).
+      refine (p @ _).
+
+      refine (maponpaths (fun z => BinProductObject _ (pr1 C3_prod z _)) _ @ _).
+      { exact (! ψ₁). }
+      refine (maponpaths (fun z => BinProductObject _ (pr1 C3_prod _ z)) _).
+      exact (! ψ₂).
+
+  Defined.
```
Comment (nmvdw) [inline UniMath/Bicategories/RezkCompletions/StructuredCats/BinProducts.v:317]: Would it be possible to factor out this rewriting part, and make it opaque?

File: UniMath/Bicategories/RezkCompletions/StructuredCats/BinProducts.v [hunk 4]
```diff
@@ -0,0 +1,319 @@
...
+
+  Let D := disp_bicat_have_binproducts.
+
+  Let RR := (disp_psfunctor_on_cat_to_univ_cat D
+               (disp_2cells_isaprop_from_disp_2cells_iscontr _ disp_2cells_is_contr_have_binproducts)).
+
+  Definition cat_with_binproducts_has_RezkCompletion
+    : disp_left_universal_arrow LUR RR.
+  Proof.
+    use make_disp_left_universal_arrow_if_contr_CAT_from_weak_equiv.
```
Comment (nmvdw) [inline UniMath/Bicategories/RezkCompletions/StructuredCats/BinProducts.v:91]: Here it would be good to factor out the large rewriting part and make it opaque

**Review by nmvdw — APPROVED** [review]
I only have minor comments.

**Comment by Kfwullaert** [comment]
@nmvdw I've adressed your comments.

File: UniMath/Bicategories/RezkCompletions/StructuredCats/BinProducts.v (hunk 2 above)
Comment (Kfwullaert) [reply UniMath/Bicategories/RezkCompletions/StructuredCats/BinProducts.v]: I've replaced this section, containing only 1 definition, by a definition.

**Review by nmvdw — APPROVED** [review]
